US06392104B1
In an atmosphere of nitrogen, 15 mmole of lithium aluminium hydride was suspended into 15 mL of tetrahydrofurane (THF). To the resultant mixture was slowly added 10 mmole of 1-carboxy-3-adamantanol obtained by the method of Example 2 while keeping the temperature of the mixture at 10° C. or below by using an ice bath. After warming the mixture to room temperature, the mixture was refluxed for 16 hours. As a result, 1-hydroxymethyl-3-adamantanol (yield 95%) was obtained. The conversion of 1-carboxy-3-adamantanol was 99%.

reactant | lithium aluminium hydride | 15 mmole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-carboxy-3-adamantanol | 10 mmole | C(=O)(O)C12CC3(CC(CC(C1)C3)C2)O | C11H16O3
solvent | tetrahydrofurane | 15 mL | O1CCCC1 | C4H8O
product | 1-hydroxymethyl-3-adamantanol | yield 95% | OCC12CC3(CC(CC(C1)C3)C2)O | C11H18O2
